US09227978B2
(2-Chloro-4-methoxy-5-nitrophenyl)methanol
To a solution of 2-chloro-4-methoxy-5-nitrobenzaldehyde (6.0 g, 29 mmol) in MeOH at 0° C. (50 mL), sodium borohydride (4.45 g, 117 mmol) was added in portions and the resulting mixture was stirred at RT for 30 min. The mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=10:1) to afford the desired product (5.0 g, 78.4% yield).

reactant | 2-chloro-4-methoxy-5-nitrobenzaldehyde | 29 mmol, 6.0 g | ClC1=C(C=O)C=C(C(=C1)OC)[N+](=O)[O-] | C8H6ClNO4
reactant | sodium borohydride | 117 mmol, 4.45 g | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | (2-Chloro-4-methoxy-5-nitrophenyl)methanol | 5.0 g, 78.4% yield | ClC1=C(C=C(C(=C1)OC)[N+](=O)[O-])CO | C8H8ClNO4
